US04228069
2-Phenylazo-2-acetoxypropane was prepared in 92% yield by oxidizing 10.0 grams (0.067 moles) acetone phenylhydrazone with 30.6 grams (0.069 moles) lead tetraacetate in 150 ml. methylene chloride.

reactant | acetone phenylhydrazone | 0.067 moles, 10.0 grams | C1(=CC=CC=C1)NN=C(C)C | C9H12N2
reactant | lead tetraacetate | 0.069 moles, 30.6 grams | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Phenylazo-2-acetoxypropane | 92% yield | C1(=CC=CC=C1)N=NC(C)(C)OC(C)=O | C11H14N2O2
